US05366972
a) 2-Chloro-3-cyano-6-(N,N-dimethylamino)-4-methylpyridine
Dimethylamine (8 mL) was added to a solution of 3-cyano-2,6-dichloro-4-methylpyridine (11.6 g) in dioxan (100 mL). After stirring for 2 hours the reaction mixture was diluted with ethyl acetate (1 L), washed with water, dried, filtered, and evaporated to a volume of 20 mL. The crystalline material was filtered to give 5.4 g of the title compound, suitable for use in the next reaction.

reactant | Dimethylamine | 8 mL | CNC | C2H7N
reactant | 3-cyano-2,6-dichloro-4-methylpyridine | 11.6 g | C(#N)C=1C(=NC(=CC1C)Cl)Cl | C7H4Cl2N2
solvent | dioxan | 100 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-3-cyano-6-(N,N-dimethylamino)-4-methylpyridine | 5.4 g | ClC1=NC(=CC(=C1C#N)C)N(C)C | C9H10ClN3
